US05420275
8-Hydroxy-7-phenylpyrido[3,4-d]pyridazine-1, 4(2H, 3H)-dione (L-002).
3,6-Epoxy-3-ethoxy-4,5-dimethoxycarbonyl-2-phenyl-3,4,5,6-tetrahydropyridine (500 mg; 1.5 mmol) was added to hydrazine monohydrate (5 ml), and the mixture was heated in a stream of nitrogen at 100° C. for 1 hour. Under ice-cooling, water was added to reaction mixture, and the mixture was neutralized with acetic acid. The resulting yellow crystalline precipitate was recovered by filtration. Yield: 210 mg (55.0%).

reactant | 3,6-Epoxy-3-ethoxy-4,5-dimethoxycarbonyl-2-phenyl-3,4,5,6-tetrahydropyridine | 1.5 mmol, 500 mg | O1C2(C(=NC1C(C2C(=O)OC)C(=O)OC)C2=CC=CC=C2)OCC | C17H19NO6
reactant | hydrazine monohydrate | 5 ml | O.NN
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-Hydroxy-7-phenylpyrido[3,4-d]pyridazine-1, 4(2H, 3H)-dione | OC1=C(N=CC=2C(NNC(C21)=O)=O)C2=CC=CC=C2 | C13H9N3O3
